US04968704
N-Methyl-N'-[4-([1-(4-pyridyl)piperidin-4-yl]methoxy)phenyl]sulphamide
Methylsulphamoyl chloride (0.39 g) was added dropwise to a stirred solution of 4-[(4-aminophenoxy)methyl]-1-[4-pyridyl]piperidine (see Preparation 4) (0.57 g) in pyridine (15 ml) and the mixture was stirred at room temperature for 6 hours. An additional 0.39 g of methylsulphamoyl chloride was then added and the mixture was stirred for a further 18 hours and then evaporated. The residue was partitioned between sodium bicarbonate solution and ethyl acetate. The organic layer was separated and the aqueous layer was extracted several times with ethyl acetate. The combined organic layers were washed with water, dried (Na2SO4) and evaporated. The solid residue was crystallised from ethanol to give the title compound, (0.30 g), m.p. 170.5°-172.5°.

reactant | Methylsulphamoyl chloride | 0.39 g | CNS(=O)(=O)Cl | CH4ClNO2S
reactant | 4-[(4-aminophenoxy)methyl]-1-[4-pyridyl]piperidine | 0.57 g | NC1=CC=C(OCC2CCN(CC2)C2=CC=NC=C2)C=C1 | C17H21N3O
reactant | methylsulphamoyl chloride | 0.39 g | CNS(=O)(=O)Cl | CH4ClNO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-Methyl-N'-[4-([1-(4-pyridyl)piperidin-4-yl]methoxy)phenyl]sulphamide | 0.30 g | CNS(=O)(=O)NC1=CC=C(C=C1)OCC1CCN(CC1)C1=CC=NC=C1 | C18H24N4O3S
